US06730371B2
(1) Synthesis of 4′-acetoxybiphenyl-4-carboxylic acid
50 Grams (234 mmol) of 4′-hydroxybiphenyl-4-carboxylic acid and 238 g (2.34 mol) of acetic anhydride were placed in a reactor, and while these stirred, 0.1 g of concentrated sulfuric acid was added. The mixture was stirred until heat generation ceased, and the mixture was further heated at 80° C. for 4 hours with stirring and then gradually cooled to room temperature. While the reaction mixture was cooled in an ice bath, 500 g of water was gradually added, and the mixture was stirred at room temperature for 3 hours to quench unreacted acetic anhydride. A precipitated white solid was recovered by filtration, washed with water to remove acetic acid, and dried with a vacuum drier to give 59.8 g of an end compound (yield 99%).

reactant | 4′-hydroxybiphenyl-4-carboxylic acid | 234 mmol | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H10O3
reactant | acetic anhydride | 2.34 mol, 238 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | 0.1 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 500 g | O | H2O
product | 4′-acetoxybiphenyl-4-carboxylic acid | 59.8 g, yield 99% | C(C)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C15H12O4
